US05380746
3.0 g (7.72 mmol) 2-(1H-indol-3-yl)-3-(5,6-dimethoxy-1H-indol-3-yl)-maleic acid anhydride, together with 75 g ammonium acetate, are heated to 140° C. for 1 hour. After cooling, the reaction mixture is mixed with 1.5 l of water and the dark red precipitate is filtered off with suction. There is obtained a crude yield of 2.61 g. For purification, 1.75 g thereof is chromatographed on silica gel with dichloromethane/ethyl acetate (8:1 v/v) as elution agent. There are obtained 1.20 g 2-(1H-indol-3-yl)-3-(5,6-dimethoxy-1H-indol-3-yl)-maleinimide×0.5 ethyl acetate in the form of dark red crystals; m.p. 120° C. (decomp.); RF=0.32 (dichloromethane/ethyl acetate 3:1 v/v). Yield 54% of theory.

reactant | 2-(1H-indol-3-yl)-3-(5,6-dimethoxy-1H-indol-3-yl)-maleic acid anhydride | 7.72 mmol, 3.0 g | N1C=C(C2=CC=CC=C12)/C=1/C(=O)OC(\C1\C1=CNC2=CC(=C(C=C12)OC)OC)=O | C22H16N2O5
reactant | ammonium acetate | 75 g | C(C)(=O)[O-].[NH4+]
solvent | water | 1.5 l | O | H2O
product | 2-(1H-indol-3-yl)-3-(5,6-dimethoxy-1H-indol-3-yl)-maleinimide | 1.20 g, Yield 54% | N1C=C(C2=CC=CC=C12)C=1C(=O)NC(C1C1=CNC2=CC(=C(C=C12)OC)OC)=O | C22H17N3O4
